US09359381B2
Step 3: 6-(3-(1,3-Dioxoisoindolin-2-yl)-2-(tritylthio)propyl)-1,3-dimethyl-5-(4-methylthiazol-2-yl)-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione
Cesium carbonate (1.537 g, 4.72 mmol) was added to a solution of 1,3-dimethyl-5-(4-methylthiazol-2-yl)-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione (Intermediate Nd) (0.652 g, 2.359 mmol) and 2-(3-bromo-2-(tritylthio)propyl) isoindoline-1,3-dione (2.011 g, 2.59 mmol) in dimethylacetamide (10 ml) and the mixture was stirred at 55° C. for 16 hours. The mixture was cooled to room temperature, partitioned between water (150 ml) and ethyl acetate (150 ml). The organic layer was separated, washed with brine (150 ml), dried over magnesium sulfate and evaporated under vacuum. Purification by chromatography on silica, eluting with 0-75% EtOAc/hexane afforded the title compound.

reactant | Cesium carbonate | 4.72 mmol, 1.537 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1,3-dimethyl-5-(4-methylthiazol-2-yl)-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione | 2.359 mmol, 0.652 g | CN1C(N(C(C=2C1=CNC2C=2SC=C(N2)C)=O)C)=O | C12H12N4O2S
reactant | 2-(3-bromo-2-(tritylthio)propyl) isoindoline-1,3-dione | 2.59 mmol, 2.011 g | BrCC(CN1C(C2=CC=CC=C2C1=O)=O)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C30H24BrNO2S
solvent | dimethylacetamide | 10 ml | CC(=O)N(C)C | C4H9NO
product | 6-(3-(1,3-Dioxoisoindolin-2-yl)-2-(tritylthio)propyl)-1,3-dimethyl-5-(4-methylthiazol-2-yl)-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione | O=C1N(C(C2=CC=CC=C12)=O)CC(CN1C=C2N(C(N(C(C2=C1C=1SC=C(N1)C)=O)C)=O)C)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C42H35N5O4S2
